US06489344B1
[4-(4-chloro-2-methylphenyl)-5-imidazol-2-ylpyrimidin-2-yl]{2-[(5-nitro(2-pyridyl))amino]ethyl}amine was prepared from 4-chloro-2-methylbenzoyl chloride using the general method for [4-(2,4-dichlorophenyl)-5-imidazol-2-ylpyrimidin-2-yl]{2-[(5-nitro(2-pyridyl))amino]ethyl}amine.

reactant | 4-chloro-2-methylbenzoyl chloride | ClC1=CC(=C(C(=O)Cl)C=C1)C | C8H6Cl2O
reactant | [4-(2,4-dichlorophenyl)-5-imidazol-2-ylpyrimidin-2-yl]{2-[(5-nitro(2-pyridyl))amino]ethyl}amine | ClC1=C(C=CC(=C1)Cl)C1=NC(=NC=C1C=1NC=CN1)NCCNC1=NC=C(C=C1)[N+](=O)[O-] | C20H16Cl2N8O2
product | [4-(4-chloro-2-methylphenyl)-5-imidazol-2-ylpyrimidin-2-yl]{2-[(5-nitro(2-pyridyl))amino]ethyl}amine | ClC1=CC(=C(C=C1)C1=NC(=NC=C1C=1NC=CN1)NCCNC1=NC=C(C=C1)[N+](=O)[O-])C | C21H19ClN8O2
